US04048306
Methoxyacetaldehyde-erythromycylamine condensation product by method A
N-(Acetyl)-aminoacetaldehyde-erythromycylamine condensation product, m.p. 143°-147° C, from N-(acetyl)-aminoacetaldehyde-dimethylacetal and erythromycylamine.

reactant | N-(Acetyl)-aminoacetaldehyde erythromycylamine | C(C)(=O)NCC=O.CC[C@@H]1[C@@]([C@@H]([C@H]([C@H]([C@@H](C[C@@]([C@@H]([C@H]([C@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)N)C)O)(C)O
reactant | N-(acetyl)-aminoacetaldehyde-dimethylacetal | COC(CNC(C)=O)OC | C6H13NO3
reactant | erythromycylamine | CC[C@@H]1[C@@]([C@@H]([C@H]([C@H]([C@@H](C[C@@]([C@@H]([C@H]([C@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)N)C)O)(C)O | C37H70N2O12
product | Methoxyacetaldehyde erythromycylamine | COCC=O.CC[C@@H]1[C@@]([C@@H]([C@H]([C@H]([C@@H](C[C@@]([C@@H]([C@H]([C@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)N)C)O)(C)O | InChI=1S/C37H70N2O12.C3H6O2/c1-14-25-37(10,45)30(41)20(4)27(38)18(2)16-35(8,44)32(51-34-28(40)24(39(11)12)15-19(3)47-34)21(5)29(22(6)33(43)49-25)50-26-17-36(9,46-13)31(42)23(7)48-26;1-5-3-2-4/h18-32,34,40-42,44-45H,14-17,38H2,1-13H3;2H,3H2,1H3/t18-,19-,20+,21+,22-,23+,24+,25-,26+,27+,28-,29-,30-,31+,32-,34+,35-,36-,37-;/m1./s1
